US03953513
B. 1-Benzyloxy-2-butanol-p-toluenesulfonate
To a solution of 1,000 g. (5.45 mole) of 1-benzyloxy-2-butanol in 2,000 ml. of pyridine, 1,170 g. (6.04 mole) of p-toluenesulfonyl chloride is added in small portions for a period of about 30 minutes at room temperature. During the addition the temperature raises, but it is kept at the room values by cooling the reaction mixture by an external circulation of ice-water; then the solution is vigorously stirred always at room temperature for about 16-20 hours. After cooling to 0°C, the solution is poured into ice-water and an oil precipitates, which is separated from the aqueous phase by decantation. The remaining water portion is twice extracted with benzene; then the oily and the benzene phases are combined together and the resulting benzene solution is cooled to about 10°C. Said organic solution is subsequently washed with concentrated hydrochloric acid, then with a saturated solution of sodium bicarbonate and finally with water, and dried over sodium sulfate. After distillation of the solvent a residue is obtained which is 1-benzyloxy-2-butanol p-toluenesulfonate which decomposes upon distillation. Yield of this step: 100%.

reactant | 1-benzyloxy-2-butanol | 5.45 mole | C(C1=CC=CC=C1)OCC(CC)O | C11H16O2
reactant | p-toluenesulfonyl chloride | 6.04 mole | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-benzyloxy-2-butanol p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC(COCC1=CC=CC=C1)CC)C | C18H22O4S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Benzyloxy-2-butanol p-toluenesulfonate | C(C1=CC=CC=C1)OCC(CC)O.CC=1C=CC(=CC1)S(=O)(=O)O | InChI=1S/C11H16O2.C7H8O3S/c1-2-11(12)9-13-8-10-6-4-3-5-7-10;1-6-2-4-7(5-3-6)11(8,9)10/h3-7,11-12H,2,8-9H2,1H3;2-5H,1H3,(H,8,9,10)
